simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (next_window 0) vsource type=pulse val0=0 val1=0.9 delay=0 rise=50p fall=50p width=1.8n period=4n
Vrst (clear_n 0) vsource type=pwl wave=[ 0 0 4n 0 4.1n 0.9 120n 0.9 ]
Vqty0 (qty2_0 0) vsource dc=0.9
Vqty1 (qty2_1 0) vsource dc=0.9
Vqty2 (qty2_2 0) vsource dc=0

XDUT (next_window clear_n qty2_0 qty2_1 qty2_2 vdd vss cell0 cell1 cell2 cell3 cell4 cell5 cell6 cell7) v2_dwa_circular_cursor_014

tran tran stop=120n maxstep=500p
save next_window clear_n qty2_0 qty2_1 qty2_2 cell0 cell1 cell2 cell3 cell4 cell5 cell6 cell7
